US05712272
b. 7-Chloro-1-tetralone
4-(4-Chlorophenyl)butyric acid (26.62 g) was added to 150 g of hot polyphosphoric acid (90° C.); the mixture was maintained at 90°-95° C. for 0.33 hour. After cooling to room temperature, the reaction mixture was added to 400 mL of ice-cold stirred water. The solution was allowed to warm to room temperature; and the resulting precipitate was filtered, washed (water) and air dried to give a pale yellow solid (22.3 g). The solid was recrystallized from toluene (50 mL) at -10° C. The crystals were collected and washed with cold toluene and then hexanes to give the tetralone as pale yellow crystals (18.18 g); mp 100.3°-101.1° C.

reactant | 4-(4-Chlorophenyl)butyric acid | 26.62 g | ClC1=CC=C(C=C1)CCCC(=O)O | C10H11ClO2
solvent | water | O | H2O
product | 7-Chloro-1-tetralone | 22.3 g | ClC1=CC=C2CCCC(C2=C1)=O | C10H9ClO
